US08686184B2
5′-[(R)-2-Carboxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-2′-methyl-biphenyl-2-carboxylic Acid
3-Bromo-4-methylbenzoic acid (100 mg, 465 μmol, 1.0 eq.), DIPEA (434 μL), HATU (177 mg, 465 μmol, 1.0 eq.), and DCM (4 mL) were combined and stirred for 5 minutes at room temperature. Predissolved (R)-3-amino-4-(2-trifluoromethylphenyl)butanoic acid hydrochloride (132 mg, 465 μmol, 1.0 eq.) and DIPEA (0.2 mL) in DCM (10 mL) was then added and the resulting mixture was stirred for 2 hours. The reaction was quenched with saturated NH4Cl and the mixture was extracted with DCM, dried and evaporated to yield a crude material. 2-t-Butoxycarbonylphenylboronic acid pinacol ester (140 mg, 460 μmol, 1.0 eq.) and toluene (540 μL) were added to the crude material, followed by EtOH (0.3 mL) then K2CO3 (128 mg, 930 μmol, 2.0 eq.) predissolved in water (0.1 mL). The mixture was stirred to aid in dissolution. The reaction vessel was purged with nitrogen then Pd(PPh3)4 (53.7 mg, 46.5 μmol) was added quickly. The reaction vessel was capped and heated to 100° C. for 30 minutes. Upon completion of the reaction, the mixture was acidified to pH ˜5 with 1N HCl. EtOAc was added, with stirring. The organic layers were removed and evaporated under vacuum to yield a crude material. The crude material was then dissolved in DCM and TFA (0.3 mL each) and stirred for 2 hours. The solvents were removed by evaporation and the resulting product was purified by preparative HPLC (using AcOH as solvent) to yield the title compound (57 mg, 95% purity). MS m/z [M+H]+ calc'd for C26H22F3NO5, 486.15. found 486.4.

reactant | 3-Bromo-4-methylbenzoic acid | 465 μmol, 100 mg, 1.0 eq. | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | DIPEA | 434 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 465 μmol, 177 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-3-amino-4-(2-trifluoromethylphenyl)butanoic acid hydrochloride | 465 μmol, 132 mg, 1.0 eq. | Cl.N[C@@H](CC(=O)O)CC1=C(C=CC=C1)C(F)(F)F
reactant | DIPEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-t-Butoxycarbonylphenylboronic acid pinacol ester | 460 μmol, 140 mg, 1.0 eq. | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C17H25BO4
reactant | K2CO3 | 930 μmol, 128 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 0.1 mL | O | H2O
catalyst | Pd(PPh3)4 | 46.5 μmol, 53.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 0.3 mL | CCO | C2H6O
solvent | toluene | 540 μL | C1(=CC=CC=C1)C | C7H8
product | 5′-[(R)-2-Carboxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-2′-methyl-biphenyl-2-carboxylic Acid | 57 mg, 95% | C(=O)(O)C[C@@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1C=CC(=C(C1)C=1C(=CC=CC1)C(=O)O)C | C26H22F3NO5
